US04752326
Preparation of 1-(2-fluoro-4-chloro-5-ethoxylphenyl)-3,5-dimethyl-4-chloropyrazole (Compound No. 175) (Process D)
To a solution of 1-(2-fluoro-4-chloro-5-ethoxyphenyl)-3,5-dimethylpyrazole (26.9 g) in chloroform (200 ml) was added dropwise sulfuryl chloride (13.5 g) for 10 minutes under water-cooling, and the reaction mixture was stirred for further 30 minutes to effect the chlorination reaction. Removal of the solvent from the reaction solution by distillation in vacuo gave the titled compound (30.0 g) as a pale yellow crystalline solid. After recrystallization of the solid from a mixture of n-hexane/ethyl acetate, the resulting white crystalline product showed the melting point of 106°-107.5° C.

reactant | 1-(2-fluoro-4-chloro-5-ethoxyphenyl)-3,5-dimethylpyrazole | 26.9 g | FC1=C(C=C(C(=C1)Cl)OCC)N1N=C(C=C1C)C | C13H14ClFN2O
reactant | sulfuryl chloride | 13.5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-fluoro-4-chloro-5-ethoxylphenyl)-3,5-dimethyl-4-chloropyrazole | 30.0 g | FC1=C(C=C(C(=C1)Cl)OCC)N1N=C(C(=C1C)Cl)C | C13H13Cl2FN2O
